US07468443B2
In 0.6 mL of acetic acid was dissolved 200 mg of 3-[2-(1-benzothiophen-5-yl)ethoxy]propiononitrile, followed by adding thereto 0.4 mL of water and 0.184 mL of sulfuric acid, and the resulting mixture was stirred at 90 to 100° C. for 1 hour. After the reaction mixture was cooled, water and ethyl acetate were added thereto and the organic layer was separated. The organic layer was washed with water and then a saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and then distilled under reduced pressure to remove the solvent. The residue was purified by a column chromatography (eluent; toluene ethyl acetate=3:1) to obtain 140 mg of 3-[2-(1-benzothiophen-5-yl)ethoxy]propionic acid as colorless crystals.

reactant | 3-[2-(1-benzothiophen-5-yl)ethoxy]propiononitrile | 200 mg | S1C=CC2=C1C=CC(=C2)CCOCCC#N | C13H13NOS
reactant | water | 0.4 mL | O | H2O
reactant | sulfuric acid | 0.184 mL | S(O)(O)(=O)=O | H2O4S
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | acetic acid | 0.6 mL | C(C)(=O)O | C2H4O2
product | 3-[2-(1-benzothiophen-5-yl)ethoxy]propionic acid | 140 mg | S1C=CC2=C1C=CC(=C2)CCOCCC(=O)O | C13H14O3S
